US06858605B2
(±)-8-Methyl-5-(4-nitrophenyl)-8,9-dihydro-7H-1,3-dioxolo[4,5-h][2,3]benzodiazepine-7-carbonitrile (XXIII)
A mixture of 3.25 g (10 mmol) of (±)-8-methyl-5-(4-nitrophenyl)-8,9-dihydro-7H-1,3-dioxolo[4,5-h][2,3]benzodiazepine, 20 ml of dimethylformamide, 2.76 g (20 mmol) of potassium chloride and 1.80 g (17 mmol) of cyanogen bromide was stirred at room temperature for 20 h. After pouring into water, the precipitated crystals were filtered off, and washed with water to yield 3.34 g (95%) of the title compound, Mp.: 172-176° C.

reactant | (±)-8-methyl-5-(4-nitrophenyl)-8,9-dihydro-7H-1,3-dioxolo[4,5-h][2,3]benzodiazepine | 10 mmol, 3.25 g | CC1NN=C(C2=C(C1)C=C1C(=C2)OCO1)C1=CC=C(C=C1)[N+](=O)[O-] | C17H15N3O4
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | potassium chloride | 20 mmol, 2.76 g | [Cl-].[K+]
reactant | cyanogen bromide | 17 mmol, 1.80 g | N#CBr | CBrN
solvent | water | O | H2O
product | (±)-8-Methyl-5-(4-nitrophenyl)-8,9-dihydro-7H-1,3-dioxolo[4,5-h][2,3]benzodiazepine-7-carbonitrile | 3.34 g, 95% | CC1N(N=C(C2=C(C1)C=C1C(=C2)OCO1)C1=CC=C(C=C1)[N+](=O)[O-])C#N | C18H14N4O4
